US05750795
There is also reported, in Japanese Patent Application (Laid-Open) No. 175951/1989, a process for production of ketone from higher aliphatic carboxylic acid and lower aliphatic carboxylic acid using cerium oxide-on-alumina catalyst. According to the literature, methyl n-undecyl ketone, for example, is produced from lauric acid and acetic acid and the yield is 85%. In the process, however, GHSV (gas phase space velocity) is as low as 171 hr-1 ; consequently, the productivity is low and a large reactor is necessary, which are not advantageous industrially.

reactant | methyl n-undecyl ketone | C(CCCCCCCCCC)C(=O)C | C13H26O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | lauric acid | yield is 85% | C(CCCCCCCCCCC)(=O)O | C12H24O2
